US07635700B2
To a stirred mixture of 2-amino-6-fluorobenzoic acid (5.3 g, 34 mmol) and imidazole (2.8 g, 41 mmol) in acetonitrile (60 mL), was added acetyl chloride (2.9 mL, 41 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (6.1 g, 37 mmol), imidazole (5.1 g, 75 mmol) and triphenyl phosphite (10.6 mL, 41 mmol) and heated to reflux for 22 hours. To the mixture, was added water (60 mL). The suspension was filtered and washed with water (2×50 mL), ethyl acetate (2×50 mL), and water (50 mL) to give a white solid, which was stirred in methanol (50 mL) overnight. The suspension was washed with methanol (30 mL) and water (30 mL) to give 3-(5-fluoro-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (7.6 g, 78% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 3.8 min (99.6%); mp: 275-277° C.; 1H NMR (DMSO-d6) δ 2.13-2.20 (m, 1H, CHH), 2.57-2.69 (m, 5H, CH3, 2CHH), 2.77-2.90 (m, 1H, CHH), 5.25 (dd, J=6, 11 Hz, 1H, NCH), 7.26 (ddd, J=0.6, 8, 11 Hz, 1H, Ar), 7.44 (d, J=8 Hz, 1H, Ar), 7.80 (dt, J=5, 8 Hz 1H, Ar), 11.04 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.73, 23.45, 30.57, 56.45, 109.79 (d, JC-F=6 Hz), 112.89 (d, JC-F=21 Hz), 122.64 (d, JC-F=4 Hz), 135.39 (d, JC-F=11 Hz), 148.86, 156.22, 157.46, 160.15 (d, JC-F=264 Hz), 169.38, 172.57; LCMS: MH=290; Anal Calcd for C14H12N3O3F: C, 58.13; H, 4.18; N, 14.53; F, 6.57. Found: C, 57.98; H, 4.00; N, 14.45; F, 6.73.

reactant | 2-amino-6-fluorobenzoic acid | 34 mmol, 5.3 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | imidazole | 41 mmol, 2.8 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 41 mmol, 2.9 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 37 mmol, 6.1 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 75 mmol, 5.1 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 41 mmol, 10.6 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | 3-(5-fluoro-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 7.6 g, 78% yield | FC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H12FN3O3
